US07576094B2
A solution of 3-[(methoxyamino)methyl]-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-6-ol (300 mg) in 20 mL of ethyl acetate was treated with Pd (100 mg, 10% on activated carbon), flushed with H2, and left stirring in a hydrogen atmosphere overnight. After filtration through a pad of silica, the solvents were evaporated. The residue was purified by flash chromatography eluted with 30% ethyl acetate and hexane to give 54.0 mg of 3-[(methoxyamino)methyl]-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol as an off-white solid. 1H-NMR (300 MHz, CDCl3) δ=6.51 (s, 1H), 3.57 (s, 3H), 2.20 (s, 3H), 2.13 (s, 3H), 3.20-1.50 (m, 11H) ppm. 13C-NMR (75 MHz, CDCl3) δ=146.5, 145.9, 122.6, 122.4, 117.7, 116.3, 79.2, 62.0, 50.5, 35.4, 33.5, 31.7, 23.3, 16.2, 12.8, 11.6 ppm. MS: (m/z)=278.2 (M+H+).

reactant | 3-[(methoxyamino)methyl]-5,7-dimethylspiro[chromene-2,1′-cyclobutan]-6-ol | 300 mg | CONCC1=CC2=C(C(=C(C=C2OC12CCC2)C)O)C | C16H21NO3
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd | 100 mg | [Pd] | Pd
product | 3-[(methoxyamino)methyl]-5,7-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 54.0 mg | CONCC1CC2=C(C(=C(C=C2OC12CCC2)C)O)C | C16H23NO3
